2141-08-03 09:53:00 Physician Attending Progress Note
Chief Complaint: esophageal variceal bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with EtOH cirrhosis, homeless, arrested night prior to admission
   for intoxication, initially admitted to [**Hospital **] hospital with severe
   upper GIB / hematemesis, with emergent EGD showing bleeding varices,
   s/p banding. Required additional EGD. Total of ~10U prbc, several units
   of ffp. Witnessed aspiration as well. Prior mental status unknown but
   reportedly given diazepam prior to acute decompensation:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-8-2**] 05:00 PM
 ENDOSCOPY - At [**2141-8-2**] 06:38 PM
 URINE CULTURE - At [**2141-8-3**] 12:30 AM
 SPUTUM CULTURE - At [**2141-8-3**] 12:30 AM
   -s/p repeat EGD on arrival showing portal gastropathy and varices with
   bands; no new bands applied
   -2 more units PRBC overnight with more ffp and vit K
   -no clear new bleeding
   History obtained from Patient
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-2**] 06:45 PM
   Vancomycin - [**2141-8-3**] 08:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-8-2**] 06:50 PM
   Fentanyl - [**2141-8-2**] 11:45 PM
   Midazolam (Versed) - [**2141-8-2**] 11:45 PM
   Other medications:
   octr, protonix, vanco, lactulose, fa, thiamine, rifaximin, zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: No(t) Dry mouth, OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Emesis
   Endocrine: No(t) Hyperglycemia
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-8-3**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 85 (71 - 102) bpm
   BP: 156/84(100) {143/77(95) - 178/91(111)} mmHg
   RR: 17 (11 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,035 mL
                                                                  2,118 mL
   PO:
           TF:
   IVF:
                                                                    660 mL
                                                                    673 mL
   Blood products:
                                                                    375 mL
                                                                    905 mL
   Total out:
                                                                  1,485 mL
                                                                  2,020 mL
   Urine:
                                                                  1,485 mL
                                                                  2,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 713 (644 - 875) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   Plateau: 9 cmH2O
   SpO2: 96%
   ABG: 7.52/33/156/25/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese
   Eyes / Conjunctiva: PERRL, sluggish
   Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   86 K/uL
   103 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.2 mEq/L
   8 mg/dL
   106 mEq/L
   137 mEq/L
   30.4 %
   23.7 K/uL
        [image002.jpg]
                             [**2141-8-2**]  05:19 PM
                             [**2141-8-2**]  05:25 PM
                             [**2141-8-2**]  10:39 PM
                             [**2141-8-3**]  04:31 AM
   WBC
   25.6
   23.8
   23.7
   Hct
   27.4
   29
   27.8
   30.4
   Plt
   83
   69
   86
   Cr
   0.5
   0.3
   TCO2
   28
   Glucose
   132
   132
   103
   Other labs: PT / PTT / INR:19.0/33.1/1.7, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:70.0 %, Band:24.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:271 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:3.1 g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Imaging: cxr: R>>L airspace disease
   Microbiology: sputum cx: polys on gs, awaiting cx
   Assessment and Plan
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with EtOH cirrhosis, homeless, arrested night prior to admission
   for intoxication, initially admitted to [**Hospital **] hospital with severe
   upper GIB / hematemesis, with emergent EGD showing bleeding varices,
   s/p banding. Repeat EGD on transfer did not identify bleeding; no need
   for additional procedure identified. Pt is clearly at high risk for
   re-bleeding, and may need TIPS to control bleeding. For now will wait
   for patient to awaken, and will plan to extubated and assess baseline
   mental status.
   gib: esoph / gastric
   -monitoring with serial hct for now
   -gi following in case additional procedures needed
   -cont octreotide and ppi ggt; will discuss with GI
   -abx broad
   resp failure with aspiration pneumonitis / pna: minimal vent settings
   -abx
   -only barried to extubation is mental status
   -fu cultures
   -check abg
   altered mental status: likely hepatic encephalopathy in the setting of
   some sedation
   -lactulose to [**2-23**] bm per day
   -rifaximin
   -check utox
   -neuro consulted this am
   -will review head ct
   -check ammonia
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2141-8-2**] 05:16 PM
   20 Gauge - [**2141-8-2**] 11:52 PM
   18 Gauge - [**2141-8-3**] 12:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: will look for family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-08-04 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45-year-old man with history of HIV, hepatitis, and
   cirrhosis who is transferred from [**Hospital 880**] Hospital for management of
   upper GI bleed.
   24 Hour Events:
 PAN CULTURE - At [**2141-8-4**] 04:55 AM
 FEVER - 101.5
F - [**2141-8-4**] 06:00 AM
   - transfused 2u PRBC, 2 bags FFP
   - vitamin K 10 mg IV x 1
   ------------------------------------------------------
   - Neuro recs in OMR: IV thiamine, eeg, LP, MRI
   - K repletion
   - somlonent
   - GI: ok to restart BB once clear from GIB risk
   - BP in 170s but still bloody stool so postponed bb
   - tox +benzos
   - spiked and cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-3**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-4**] 05:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-4**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 98 (85 - 102) bpm
   BP: 170/93(111) {143/77(94) - 171/97(115)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,315 mL
                                                                    412 mL
   PO:
             TF:
   IVF:
                                                                  1,510 mL
                                                                    262 mL
   Blood products:
                                                                    905 mL
   Total out:
                                                                  5,050 mL
                                                                  1,150 mL
   Urine:
                                                                  3,550 mL
                                                                    700 mL
   NG:
   Stool:
                                                                  1,500 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,735 mL
                                                                   -738 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 631 (356 - 713) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.53/33/63/24/4
   Ve: 13.8 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   108 K/uL
   10.5 g/dL
   110 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   7 mg/dL
   103 mEq/L
   136 mEq/L
   30.9 %
   26.8 K/uL
        [image002.jpg]
                             [**2141-8-2**]  05:19 PM
                             [**2141-8-2**]  05:25 PM
                             [**2141-8-2**]  10:39 PM
                             [**2141-8-3**]  04:31 AM
                             [**2141-8-3**]  09:59 AM
                             [**2141-8-3**]  10:01 AM
                             [**2141-8-3**]  06:24 PM
                             [**2141-8-4**]  12:30 AM
                             [**2141-8-4**]  04:25 AM
                             [**2141-8-4**]  07:02 AM
   WBC
   25.6
   23.8
   23.7
   26.8
   Hct
   27.4
   29
   27.8
   30.4
   30.1
   29.8
   30.8
   30.9
   Plt
   83
   69
   86
   108
   Cr
   0.5
   0.3
   0.4
   TCO2
   28
   29
   28
   Glucose
   132
   132
   103
   110
   Other labs: PT / PTT / INR:19.0/33.1/1.7, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:70.0 %, Band:24.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:271 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:3.1 g/dL, LDH:248 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: FINDINGS: In comparison with the study of [**8-2**], there may
   be slight worsening of the asymmetric right perihilar alveolar opacity.
   Again, though this could be related to asymmetric pulmonary edema,
   aspiration and infection should be
   seriously considered.
   The left retrocardiac opacity has substantially decreased, suggesting
   expectoration of a mucous plug that had been causing lower lobe
   collapse.
   Monitoring and support devices remain in place. The side hole of the
   nasogastric tube is probably in the lower esophagus.
   Assessment and Plan
   45-year-old man with history of HIV, hepatitis, and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed.
   # GI bleed:  Upper GI in etiology and likely source is varices versus
   portal gastropathy.  Currently hemodynamically stable s/p EGD, banding
   at OSH.  Was transfused 10u PRBCs and 8u FFP at OSH prior to arrival,
   and has received 2u PRBC and 2u FFP and vitamin K 10 mg IV x 1.  Not
   actively bleeding at this time.
   - transfuse to match loses or Hct>30
   - FFP as needed to keep INR < 2
   - platelets as needed to keep platelet count > 50
   - currently has 4 PIVs (18G x 2, 16G, 20G)
   - will hold on placing [**Location (un) 342**] for now
   - octreotide gtt
   - pantoprazole gtt
   - liver reccs
   - prophylactic antibiotics (zosyn for ?pna and variceal bleeding)
   # Respiratory failure:  Intubated for hypoxia and airway protection in
   the setting of UGIB and possible aspiration.  CXR concerning for
   aspiration pneumonia.  Currently with stable blood gas but increasingly
   hypoxic.
   - continue mechanical ventilation for now but will not attempt to
   extubate until respiratory status and mental status improve
   - vanc/zosyn empirically for pneumonia/pneumonitis
   - blood cx, sputum cx
   - daily CXRs until extubated
   # Altered mental status:  Became increasingly obtunded at OSH after
   diazepam but remains obtunded, with no sedation while intubated.  Did
   have negative head CTs at OSH and concern for hepatic encephalopathy
   given elevated ammonia level (400).  [**Month (only) 51**] be secondary to a toxic
   metabolic encephalopathy.  Must also consider Wernicke's
   encephalopathy.
   - will hold sedatives as much as possible
   - neuro reccs
   - lactulose as above
   - continue thiamine
   # Cirrhosis:  Thought to be secondary to alcohol vs ?hepatitis C.
   - will start lactulose and rifaxamin once hemodynamically stable
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  No evidence of withdrawal currently.
   - folate and thiamine
   - start CIWA if evidence of withdrawal
   - social work consult once extubated and lucid
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # FEN: IVF prn, replete electrolytes, NPO for now
   # Prophylaxis: pneumoboots
   # Access: Four peripherals (18G x 2, 16G, 20G)
   # Code:  Presumed full
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-8-3**] 08:48 PM
   18 Gauge - [**2141-8-4**] 12:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2141-08-04 10:46:00 Physician Attending Progress Note
Chief Complaint: hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with advanced liver disease, presented with hematemesis s/p
   variceal banding, now with worsening fevers and remains unresponsive:
   24 Hour Events:
 PAN CULTURE - At [**2141-8-4**] 04:55 AM
 FEVER - 101.5
F - [**2141-8-4**] 06:00 AM
   -remained intubated
   -remained unresponsive
   -no change in sputum
   -increased O2 requirement
                               History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-4**] 05:30 AM
   Vancomycin - [**2141-8-4**] 09:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   octr, protonix, vanco 1500 q12, propofol, rifaximin, thiamine, zosyn,
   lactulose, albuterol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO, Tube feeds
   Respiratory: No(t) Cough
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2141-8-4**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 39.1
C (102.3
   HR: 103 (85 - 109) bpm
   BP: 169/89(106) {143/78(94) - 171/97(115)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,315 mL
                                                                  1,077 mL
   PO:
             TF:
   IVF:
                                                                  1,510 mL
                                                                    837 mL
   Blood products:
                                                                    905 mL
   Total out:
                                                                  5,050 mL
                                                                  1,225 mL
   Urine:
                                                                  3,550 mL
                                                                    775 mL
   NG:
   Stool:
                                                                  1,500 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,735 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 418 (356 - 631) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.53/33/63/24/4
   Ve: 14.2 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube, NG
   tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, +fluid wave
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   108 K/uL
   110 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   7 mg/dL
   103 mEq/L
   136 mEq/L
   30.9 %
   26.8 K/uL
        [image002.jpg]
                             [**2141-8-2**]  05:19 PM
                             [**2141-8-2**]  05:25 PM
                             [**2141-8-2**]  10:39 PM
                             [**2141-8-3**]  04:31 AM
                             [**2141-8-3**]  09:59 AM
                             [**2141-8-3**]  10:01 AM
                             [**2141-8-3**]  06:24 PM
                             [**2141-8-4**]  12:30 AM
                             [**2141-8-4**]  04:25 AM
                             [**2141-8-4**]  07:02 AM
   WBC
   25.6
   23.8
   23.7
   26.8
   Hct
   27.4
   29
   27.8
   30.4
   30.1
   29.8
   30.8
   30.9
   Plt
   83
   69
   86
   108
   Cr
   0.5
   0.3
   0.4
   TCO2
   28
   29
   28
   Glucose
   132
   132
   103
   110
   Other labs: PT / PTT / INR:19.0/33.1/1.7, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:70.0 %, Band:24.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:271 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:3.1 g/dL, LDH:248 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr: progression of infiltrates
   Microbiology: negative so far
   Assessment and Plan
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with advanced liver disease, presented with hematemesis s/p
   variceal banding, now with worsening fevers and remains unresponsive.
   The spike in fevers is concerning for an infectious process that is not
   being treated adequately.
   Fevers: need aggressive work-up; could be EtOH w/l
   -bronch with bal today
   -check abd u/s and sample ascites
   -TTE
   -LP when coagulation checked / corrected
   -cont current abx but need to broaden
   ARDS: possible syndrome, even if not convincing
   -change to low lung volumes and assist control and see if he tolerates
   -needs a-line for frequent ABGs
   -propofol prn
   Unresponsiveness: still likely multifactorial
   -neurology following
   -considering additional work-up, including LP, esp in the setting of
   fevers
   -EEG today
   GIB: stable
   -gi following, but hct appears stable
   ICU Care
   Nutrition: start TF today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2141-8-3**] 08:48 PM
   18 Gauge - [**2141-8-4**] 12:48 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-08-05 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45-year-old man with history of HCV hepatitis and
   cirrhosis who is transferred from [**Hospital 880**] Hospital for management of
   upper GI bleed.
   24 Hour Events:
 EKG - At [**2141-8-4**] 08:00 AM
 BRONCHOSCOPY - At [**2141-8-4**] 11:50 AM
 BAL FLUID CULTURE - At [**2141-8-4**] 12:11 PM
 ULTRASOUND - At [**2141-8-4**] 02:15 PM
   Abdomen
   BUE
 ARTERIAL LINE - START [**2141-8-4**] 04:06 PM
 MULTI LUMEN - START [**2141-8-4**] 05:01 PM
 FEVER - 102.3
F - [**2141-8-4**] 10:00 AM
   [**8-4**]:
   - 3 PM Hct was stable at 28.6
   - Bronchoscopy performed: showed lots of puruluent looking material in
   LLL
   - Changed to Volume AC with TV of 450, R 16.  With this, he was
   breathing at 26 and pulling TVs of 500-600.  ABG: 7.54/34/165
   - Abdominal U/S: Minimal abdominal ascites. No spot marked for
   paracentesis
   - UE U/S: No evidence of deep vein thrombosis of the left or right
   upper extremity.
   - CVL placed
   - EEG and TTE deferred for the weekend.  LP deferred as well, as lungs
   most likely source of AMS and fevers.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-5**] 06:35 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Propofol - [**2141-8-4**] 12:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-5**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.1
   HR: 87 (79 - 109) bpm
   BP: 177/79(110) {156/76(-1) - 177/89(119)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,871 mL
                                                                    702 mL
   PO:
             TF:
                                                                     62 mL
                                                                    214 mL
   IVF:
                                                                  2,240 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  1,350 mL
   Urine:
                                                                  1,810 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    611 mL
                                                                   -648 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 638 (418 - 714) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.51/37/111/27/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Distended, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   108 K/uL
   10.0 g/dL
   109 mg/dL
   0.3 mg/dL
   27 mEq/L
   2.6 mEq/L
   9 mg/dL
   103 mEq/L
   137 mEq/L
   29.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2141-8-3**]  06:24 PM
                             [**2141-8-4**]  12:30 AM
                             [**2141-8-4**]  04:25 AM
                             [**2141-8-4**]  07:02 AM
                             [**2141-8-4**]  02:27 PM
                             [**2141-8-4**]  02:42 PM
                             [**2141-8-4**]  05:05 PM
                             [**2141-8-4**]  08:08 PM
                             [**2141-8-5**]  04:14 AM
                             [**2141-8-5**]  04:41 AM
   WBC
   26.8
   22.8
   16.4
   Hct
   29.8
   30.8
   30.9
   28.6
   29.4
   Plt
   108
   97
   108
   Cr
   0.4
   0.3
   TCO2
   28
   30
   29
   30
   31
   Glucose
   110
   109
   Other labs: PT / PTT / INR:21.6/36.3/2.0, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:92.0 %, Band:2.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:328 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:248 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: Potassium being repleted.
   Serum Benzo Negative
   Source: Catheter
   Urine Benzos Pos
   Vanco: 2.6
   Other Body Fluid Hematology:
   WBC: 0
   Comments: OTHER BODY FLUID WBC: Not Counted Bronchial Lavage
   RBC: 0
   Comments: OTHER BODY FLUID RBC: Not Counted
   Polys: 71
   Lymphs: 7
   Monos: 0
   Macro: 17
   Other: 5
   Imaging: BILATERAL UPPER EXTREMITY VENOUS ULTRASOUND: [**Doctor Last Name 53**]-scale and
   Doppler son[**Name (NI) 9467**]
   of the right and left internal jugular, axillary, brachial, cephalic,
   and
   basilic veins demonstrate normal compression, waveforms, and
   augmentation.
   Normal waveforms are also obtained of the subclavian veins bilaterally.
   IMPRESSION: No evidence of deep vein thrombosis of the left or right
   upper
   extremity.
   STUDY: Limited abdominal ultrasound.
   HISTORY: Hepatitis C cirrhosis and respiratory failure. Assess for
   abdominal
   ascites.
   FINDINGS: Limited son[**Name (NI) 351**] evaluation of the abdomen demonstrates a
   minimal amount of perihepatic free fluid and a tiny amount of fluid in
   the
   lower quadrants. No spot was considered suitable for paracentesis.
   IMPRESSION: Minimal abdominal ascites. No spot marked for paracentesis.
   Microbiology: BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2141-8-4**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      POTASSIUM HYDROXIDE PREPARATION (Preliminary):
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
         (Preliminary):
      FUNGAL CULTURE (Preliminary):
      ACID FAST SMEAR (Preliminary):
      ACID FAST CULTURE (Preliminary):
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # Respiratory failure:  Intubated for hypoxia and airway protection in
   the setting of UGIB and possible aspiration.  CXR concerning for
   aspiration pneumonia.  Currently with stable blood gas but increasingly
   hypoxic, and clinical picture concerning of ARDS.   S/p bronch on [**8-4**]
   with improvement in LLL aeration.
   - back on PS because was pulling high tidal volumes on AC when set for
   ARDS net
   - cont vanc/zosyn empirically for pneumonia/pneumonitis
   - f/u blood cx, sputum cx
   - daily CXRs until extubated
   # Fevers/Leukocytosis:  [**Month (only) 51**] be related to ongoing pneumonia vs alcohol
   withdrawal.   Also with rhythmic movements of eye lids today concerning
   for seizure, presumably withdrawal in etiology.
   - neuro evaluation and EEG
   - consider ativan 2mg IV x 1
   - vanc/zosyn as above, continue to culture if spikes
   - will not broaden antibiotics for now
   # Altered mental status:  Became increasingly obtunded at OSH after
   diazepam but remains obtunded, with no sedation while intubated.  Did
   have negative head CTs at OSH and concern for hepatic encephalopathy
   given elevated ammonia level (400).  [**Month (only) 51**] be secondary to a toxic
   metabolic encephalopathy.   Only a small volume of fluid on abdominal
   U/S.
   - will hold sedatives as much as possible
   - LP today with correction of coagulopathy
   - TTE to r/o endocarditis
   - neuro reccs
   - lactulose as above
   - continue thiamine
   # GI bleed:  Upper GI in etiology and likely source is varices versus
   portal gastropathy.  Currently hemodynamically stable s/p EGD, banding
   at OSH.  Was transfused 10u PRBCs and 8u FFP at OSH prior to arrival,
   and has received 2u PRBC and 2u FFP and vitamin K 10 mg IV x 1.  Not
   actively bleeding at this time.
   - Hct>30 INR < 2 platelet count > 50
   - 3 PIVs
   - will hold on placing [**Location (un) 342**] for now
   - octreotide gtt
   - pantoprazole IV bid
   - liver reccs
   - prophylactic antibiotics (zosyn for ?pna and variceal bleeding)
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continuelactulose and rifaxamin
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  Concern for withdrawal given significant alcohol history
   and rhythmic blinking on exam.
   - EEG and likely trial of ativan
   - folate and thiamine
   - start CIWA if evidence of withdrawal
   - social work/addictions consult once extubated and lucid
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # FEN: IVF prn, replete electrolytes, NPO for now
   # Prophylaxis: pneumoboots
   # Access: Four peripherals (18G x 2, 16G, 20G)
   # Code:  Presumed full
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-8-4**] 06:48 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-8-3**] 08:48 PM
   18 Gauge - [**2141-8-4**] 12:48 AM
   Arterial Line - [**2141-8-4**] 04:06 PM
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-08-07 07:36:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - cont eeg: seizure activity
   - MRI: hypoxic injury right hemisphere
   - extubated
   - loaded phenytoin, increased keppra
   - Patient pulled out A-line
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-7**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2141-8-6**] 09:05 PM
   Lorazepam (Ativan) - [**2141-8-6**] 10:57 PM
   Pantoprazole (Protonix) - [**2141-8-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-7**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 84 (60 - 93) bpm
   BP: 121/59(75) {106/54(66) - 170/93(112)} mmHg
   RR: 28 (17 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
    CVP: 10 (2 - 16)mmHg
   Total In:
                                                                  3,301 mL
                                                                  1,617 mL
   PO:
   TF:
                                                                    765 mL
                                                                    427 mL
   IVF:
                                                                  1,606 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  5,050 mL
                                                                    560 mL
   Urine:
                                                                  3,900 mL
                                                                    560 mL
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                 -1,749 mL
                                                                  1,057 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 470 (470 - 470) mL
   PS : 0 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.47/35/96.[**Numeric Identifier 181**]/23/1
   Ve: 7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Distended, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   145 K/uL
   10.5 g/dL
   107 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   6 mg/dL
   100 mEq/L
   131 mEq/L
   31.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2141-8-4**]  02:42 PM
                             [**2141-8-4**]  05:05 PM
                             [**2141-8-4**]  08:08 PM
                             [**2141-8-5**]  04:14 AM
                             [**2141-8-5**]  04:41 AM
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
   WBC
   22.8
   16.4
   12.5
   14.5
   Hct
   28.6
   29.4
   30.1
   31.3
   Plt
   97
   108
   131
   145
   Cr
   0.3
   0.4
   0.4
   TCO2
   29
   30
   31
   29
   27
   26
   Glucose
   109
   86
   107
   Other labs: PT / PTT / INR:22.3/35.7/2.1, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:92.0 %, Band:2.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:328 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:248 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   MRI ([**8-6**]): 1. Findings concerning for hypoxic injury to the right
   cerebral hemisphere as well as a small focus in the left occipital
   lobe.  These findings could also represent post-ictal phemonemon.  2.
   Subacute infarction in the left cerebellum.  3.  Gliosis and
   encephalomalacia in the right frontal lobe with associated blood
   products may also be a sequelae of prior hemorrhage or trauma.  There
   are also additional foci of susceptibility dropout on the gradient echo
   images in the left sylvian fissure and right occipital lobes, again
   likely to be a sequelae of prior hemorrhage.  4.  No midline shift.
   5.  Extensive white matter changes in both subcortical and
   periventricular.  DDx would include small vessel ischemia, toxic
   metabolic etiologies, or infectious/inflammatory changes.
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # Respiratory failure:  Intubated for hypoxia and airway protection in
   the setting of UGIB and possible aspiration.  CXR concerning for
   aspiration pneumonia.  Had clinical picture concerning of ARDS but
   since bronch on [**8-4**], has had significant improvement in LLL aeration.
   CXR today looks more concerning in RUL/RML.
   - back on PS because was pulling high tidal volumes on AC when set for
   ARDS net
   - cont vanc/zosyn empirically for pneumonia/pneumonitis
   - adjust vanc dose given subtherapeutic trough
   - consider chest CT to assess for abscess, complicated effusion
   - f/u blood cx, sputum cx
   - daily CXRs until extubated
   # Fevers/Leukocytosis:  [**Month (only) 51**] be related to ongoing pneumonia vs alcohol
   withdrawal.   Also with rhythmic movements of eye lids concerning for
   seizure, presumably withdrawal in etiology.  EEG shows focal right
   occipital seizures which explain righward gaze.  No evidence of
   endocarditis on TTE.
   - f/u MRI
   - cont ativan and keppra
   - neuro reccs
   - infectious management as above
   # Altered mental status:  Became increasingly obtunded at OSH after
   diazepam but remains obtunded, with no sedation while intubated.  Did
   have negative head CTs at OSH and concern for hepatic encephalopathy
   given elevated ammonia level (400).  Likely multifactorial with toxic
   metabolic encephalopathy, infectious process, and seizures.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - consider LP today with correction of coagulopathy
   - lactulose and rifaxamin
   - continue thiamine
   - neuro reccs
   # GI bleed:  Upper GI in etiology and likely source is varices versus
   portal gastropathy.  Currently hemodynamically stable s/p EGD, banding
   at OSH.  Was transfused 10u PRBCs and 8u FFP at OSH prior to arrival,
   and has received 2u PRBC and 2u FFP and vitamin K 10 mg IV x 1.  Not
   actively bleeding at this time.
   - Hct>30 INR < 2 platelet count > 50
   - 3 PIVs
   - will hold on placing [**Location (un) 342**] for now
   - octreotide gtt can be stopped later today per liver
   - pantoprazole IV bid
   - liver reccs
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension, improved
   since starting ativan and captopril.
   - continue ativan and keppra as above
   - continue captorpril for hypertension
   - folate and thiamine
   - social work/addictions consult once extubated and lucid
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # FEN: IVF prn, replete electrolytes, NPO for now
   # Prophylaxis: pneumoboots
   # Access: Four peripherals (18G x 2, 16G, 20G)
   # Code:  Presumed full
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-8-6**] 04:05 AM 61.[**Telephone/Fax (3) 9482**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-8-3**] 08:48 PM
   18 Gauge - [**2141-8-4**] 12:48 AM
   Arterial Line - [**2141-8-4**] 04:06 PM
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2141-08-07 11:48:00 Physician Attending Progress Note
Chief Complaint: altered ms
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with etoh liver disease, ugib, presented with altered mental status
   in the setting of intoxication, variceal bleeding, with likely
   aspiration pna, now with evidence of hypoxic brain injury to R cerebral
   hemisphere c/b seizure:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-8-6**] 10:50 AM
 ARTERIAL LINE - STOP [**2141-8-6**] 10:10 PM
   -cont EEG: ?persistent seizure, reloaded on dilantin
   -extubated yesterday
   -mri: see report
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-7**] 06:00 AM
   Vancomycin - [**2141-8-7**] 08:10 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2141-8-6**] 09:05 PM
   Lorazepam (Ativan) - [**2141-8-6**] 10:57 PM
   Pantoprazole (Protonix) - [**2141-8-7**] 12:00 AM
   Dilantin - [**2141-8-7**] 08:42 AM
   Other medications:
   captopril, pantorp, vanco 1250 q8, lactulose, thiamine, rifaximin, fa,
   zosyn, keppra, dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-8-7**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 73 (66 - 93) bpm
   BP: 112/61(73) {106/54(66) - 144/85(100)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
   CVP: 10 (3 - 15)mmHg
   Total In:
                                                                  3,301 mL
                                                                  2,343 mL
   PO:
   TF:
                                                                    765 mL
                                                                    693 mL
   IVF:
                                                                  1,606 mL
                                                                    960 mL
   Blood products:
   Total out:
                                                                  5,050 mL
                                                                    715 mL
   Urine:
                                                                  3,900 mL
                                                                    715 mL
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                 -1,749 mL
                                                                  1,628 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.47/35/96.[**Numeric Identifier 181**]/23/1
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Abdominal: Soft, Non-tender, non-distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Minimally responsive though much more responsive this
   morning
   Labs / Radiology
   10.5 g/dL
   145 K/uL
   107 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   6 mg/dL
   100 mEq/L
   131 mEq/L
   31.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2141-8-4**]  02:42 PM
                             [**2141-8-4**]  05:05 PM
                             [**2141-8-4**]  08:08 PM
                             [**2141-8-5**]  04:14 AM
                             [**2141-8-5**]  04:41 AM
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
   WBC
   22.8
   16.4
   12.5
   14.5
   Hct
   28.6
   29.4
   30.1
   31.3
   Plt
   97
   108
   131
   145
   Cr
   0.3
   0.4
   0.4
   TCO2
   29
   30
   31
   29
   27
   26
   Glucose
   109
   86
   107
   Other labs: PT / PTT / INR:22.3/35.7/2.1, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:92.0 %, Band:2.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:328 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr: re-expansion or RUL, ?abscess
   Microbiology: bal: neg cx
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with etoh liver disease, ugib, presented with altered mental status
   in the setting of intoxication, variceal bleeding, with likely
   aspiration pna, now with evidence of hypoxic brain injury to R cerebral
   hemisphere c/b seizure. Appears to be improving slowly:
   PNA: question of abscess but clear parenchyma just several days ago;
   fevers resolved
   -repeat cxr in am
   -holding off on ct chest given aspiration risk but will reassess later
   today or tomorrow, esp if new sx
   -cont zosyn/vanco for 8 days total
   Seizures/hypoxic injury
   -AEDs per neuro
   -further discussion with neuro re prognosis
   -discuss again utility of LP given new seizures
   Hepatic encephalopathy
   -cont lactulose and rifaximin
   GIB/variceal: hct stable
   -not active issue
   -will need liver follow-up
   -cont ppi
   ICU Care
   Nutrition: advance as tolerated
   Nutren Pulmonary (Full) - [**2141-8-7**] 06:58 AM 61.[**Telephone/Fax (3) 9482**] mL/hour
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2141-8-3**] 08:48 PM
   18 Gauge - [**2141-8-4**] 12:48 AM
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU until mental status improves
   Total time spent:

2141-08-08 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased Dilantin dose
   - Neuro said that Occipital focus could explain AMS and thus OK to
   defer LP for now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-8**] 12:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-8**] 06:11 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2141-8-7**] 08:42 AM
   Pantoprazole (Protonix) - [**2141-8-8**] 12:00 AM
   Lorazepam (Ativan) - [**2141-8-8**] 03:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-8**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 85 (72 - 103) bpm
   BP: 119/67(79) {106/49(63) - 144/101(106)} mmHg
   RR: 25 (14 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,908 mL
                                                                    938 mL
   PO:
             TF:
                                                                  1,468 mL
                                                                    458 mL
   IVF:
                                                                  1,420 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                  1,750 mL
   Urine:
                                                                  1,570 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,738 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Abdominal: Soft, Non-tender, non-distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Minimally responsive though much more responsive this
   morning
   Labs / Radiology
   150 K/uL
   10.2 g/dL
   109 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   107 mEq/L
   138 mEq/L
   31.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2141-8-4**]  05:05 PM
                             [**2141-8-4**]  08:08 PM
                             [**2141-8-5**]  04:14 AM
                             [**2141-8-5**]  04:41 AM
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
   WBC
   16.4
   12.5
   14.5
   14.9
   Hct
   29.4
   30.1
   31.3
   31.3
   Plt
   108
   131
   145
   150
   Cr
   0.3
   0.4
   0.4
   1.6
   TCO2
   29
   30
   31
   29
   27
   26
   Glucose
   109
   86
   107
   109
   Other labs: PT / PTT / INR:22.3/35.7/2.1, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:92.0 %, Band:2.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:328 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # Respiratory failure:  Stable respiratory status. WBCs stable. Sputum
   cx negatice. Afebrile.   Concern for worsening CXR in RUL, thought to
   be possibly abscess.  Pt desatted this morning to 88% on RA and is now
   92% on  5L.
    - CXR today to evaluate for progression of lesion in RUL.
    - cont vanc/zosyn empirically for aspiration pneumonia/pneumonitis x 8
   days (currently day 7)
    - Repeat sputum culture
    - f/u blood cx, sputum cx; NGTD
    - serial CXR: developing process in RUL, no cavitation. This has been
   developing while on vanc/piptazo (i.e. HAP) so would repeat sputum cx
   and add 2^nd GN coverage if positive sputum or if rising WBCs/fever.
   - consider chest CT to assess for abscess in RUL, especially if
   symptomatic.
   # ARF:  Patient
s Cr today is 1.6, which is increased from 0.4
   yesterday.  DDx includes lab error v. pre-renal v. AIN v. ATN v.
   medication effect (Vancomycin v. Phenytoin).
    - Repeat Cr this morning
    - Check urine electrolytes and eosinophils to evaluate for pre-renal
   v. AIN.
    - F/U Dilantin level
   # Seizures: Continous EEG shows focal right occipital seizures which
   explain righward gaze. MRI with hypoxic injury which would explain MS
   change and seizure per Neurology.
   - cont ativan, phenytoin and keppra
   - phenytoin level pending for this afternoon at 3 PM
   - F/U neuro reccs
   # Altered mental status:  Likely multifactorial with toxic metabolic
   encephalopathy and seizures. Improving.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - lactulose and rifaxamin
   - continue thiamine
   - neuro reccs
   # GI bleed:  Currently hemodynamically stable s/p EGD, banding at OSH.
   - follow HCT
   - pantoprazole IV bid
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension, improved
   since starting ativan and captopril.
   - continue ativan and keppra as above
   - continue captorpril for hypertension
   - folate and thiamine
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # FEN: IVF prn, replete electrolytes, NPO for now
   # Prophylaxis: pneumoboots
   # Access: Four peripherals (18G x 2, 16G, 20G)
   # Code:  Presumed full
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-8-8**] 02:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-8-3**] 08:48 PM
   18 Gauge - [**2141-8-4**] 12:48 AM
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU pending resolution of respiratory status.

2141-08-08 11:14:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with liver disease, presented with variceal bleed s/p banding, c/b
   aspiration PNA and anoxic brain injury and seizures, now improving:
   24 Hour Events:
   -discussed with neuro, no need for LP
   -deferred CT chest for now
   -improving mental status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-8**] 12:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-8**] 06:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-8-8**] 12:00 AM
   Lorazepam (Ativan) - [**2141-8-8**] 03:31 AM
   Other medications:
   capto, pantopr, vanco 1250 q8, lactulose, thiamine, rifaximin, fa,
   zosyn, keppra, phenytoin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Neurologic: No(t) Seizure
   Psychiatric / Sleep: Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-8-8**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 83 (72 - 103) bpm
   BP: 109/54(67) {106/49(63) - 144/101(106)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,908 mL
                                                                  1,150 mL
   PO:
             TF:
                                                                  1,468 mL
                                                                    510 mL
   IVF:
                                                                  1,420 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                  1,930 mL
   Urine:
                                                                  1,570 mL
                                                                  1,930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,738 mL
                                                                   -780 mL
   Respiratory support
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : [**Last Name (un) 1023**] and bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2 ("[**2133**]"), Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.2 g/dL
   150 K/uL
   109 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   107 mEq/L
   138 mEq/L
   31.3 %
   14.9 K/uL
         [image002.jpg]
                             [**2141-8-4**]  05:05 PM
                             [**2141-8-4**]  08:08 PM
                             [**2141-8-5**]  04:14 AM
                             [**2141-8-5**]  04:41 AM
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
   WBC
   16.4
   12.5
   14.5
   14.9
   Hct
   29.4
   30.1
   31.3
   31.3
   Plt
   108
   131
   145
   150
   Cr
   0.3
   0.4
   0.4
   1.6
   TCO2
   29
   30
   31
   29
   27
   26
   Glucose
   109
   86
   107
   109
   Other labs: PT / PTT / INR:22.3/35.7/2.1, ALT / AST:26/67, Alk Phos / T
   Bili:81/6.2, Amylase / Lipase:/20, Differential-Neuts:92.0 %, Band:2.0
   %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:328 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:248 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr: pending
   eeg: no more sz activity
   Microbiology: bal: no new infomration
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with liver disease, presented with variceal bleed s/p banding, c/b
   aspiration PNA and anoxic brain injury and seizures, now improving.
   Improved mental status is encouraging.
   Resp Failure / Aspiration PNA
 RUL opacity, some concern for abscess
   per prior read; worsening Oxygen requirement today
   -repeat cxr today; if RUL opacity not improving will consider chest ct
   -for now continue vanco / zosyn, renal dose
   -aspiration precautions (very high suspicion)
   Seizure and delirium:
   -cont AEDs
   -phenytoin today
   -considering seroquel given agitated delirium though waiting for
   evaluation for infection
   Cirrhosis
   -cont lactulose and rifaxamin
   Acute Renal Failure: non-oliguric, possibly related to captopril
   started 2 days ago
   -urinalysis, urine eos
   -renal dose meds, d/c captopril
   -consider renal ultrasound in AM
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2141-8-3**] 08:48 PM
   18 Gauge - [**2141-8-4**] 12:48 AM
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None); start SQH
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to floor when EEG finished and resp status
   stabilized
   Total time spent: 35 minutes

2141-08-09 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ARF with cr of 1.7 -> d/c'd captopril and held vancomycin
   - started seroquel for agitation
   - neuro's note continues to recc LP to eval right hemispheric focal
   seizure
   - corrected dilantin level low -> paged neuro
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-8**] 12:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-8**] 06:11 AM
   Piperacillin - [**2141-8-8**] 10:08 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-8-8**] 12:00 PM
   Lorazepam (Ativan) - [**2141-8-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-9**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 77 (77 - 112) bpm
   BP: 118/69(81) {104/50(63) - 151/84(102)} mmHg
   RR: 21 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,724 mL
                                                                    614 mL
   PO:
             TF:
                                                                  1,261 mL
                                                                    449 mL
   IVF:
                                                                  1,043 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  4,695 mL
                                                                  1,375 mL
   Urine:
                                                                  3,895 mL
                                                                  1,375 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,971 mL
                                                                   -761 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Abdominal: Soft, Non-tender, non-distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Minimally responsive though much more responsive this
   morning
   Labs / Radiology
   144 K/uL
   9.9 g/dL
   116 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   23 mg/dL
   109 mEq/L
   142 mEq/L
   30.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2141-8-5**]  04:14 AM
                             [**2141-8-5**]  04:41 AM
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
                             [**2141-8-8**]  11:19 AM
                             [**2141-8-9**]  04:02 AM
   WBC
   16.4
   12.5
   14.5
   14.9
   14.9
   Hct
   29.4
   30.1
   31.3
   31.3
   30.5
   Plt
   108
   131
   145
   150
   144
   Cr
   0.3
   0.4
   0.4
   1.6
   1.7
   1.8
   TCO2
   31
   29
   27
   26
   Glucose
   109
   86
   107
   109
   93
   116
   Other labs: PT / PTT / INR:21.3/36.9/2.0, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # Respiratory failure:  Stable respiratory status. WBCs stable. Sputum
   cx negatice. Afebrile. CXR unchanged. O2 requrement improved through
   the day yesterday. Concern for infection v. lung abscess.
    - cont vanc/zosyn empirically for aspiration pneumonia/pneumonitis x 8
   days (currently day 8)
    - f/u blood cx, NGTD
    - Continue to monitor CXR.
    - consider chest CT to assess for abscess in RUL, especially if
   symptomatic.
   # ARF: Cre today is 1.8.  FeNa 3.3, rare eosinophils c/w AIN or ATN.
   Renal was consulted this morning.
    - F/U Renal recs
much appreciated
    - Continue to hold vanc
    - F/U Dilantin level
    - Renal dose meds, renal c/s
   # Seizures: Continous EEG shows focal right occipital seizures which
   explain righward gaze. Neuro continues to recommend LP.
   - cont ativan, phenytoin and keppra
   - Rediscuss need for LP with Neurology
   - F/U neuro reccs
   # Altered mental status:  Likely multifactorial with toxic metabolic
   encephalopathy and seizures. Improving.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - lactulose and rifaxamin
   - continue thiamine
   # GI bleed:  Currently hemodynamically stable s/p EGD, banding at OSH.
   - follow HCT
   - pantoprazole IV bid
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension, improved
   since starting ativan and captopril.
   - continue ativan and keppra as above
   - continue captorpril for hypertension
   - folate and thiamine
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # FEN: IVF prn, replete electrolytes, NPO for now
   # Prophylaxis: pneumoboots
   # Access: Four peripherals (18G x 2, 16G, 20G)
   # Code:  Presumed full
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   18 Gauge - [**2141-8-8**] 08:31 PM
   Prophylaxis:
   DVT:  Heparin [**Hospital1 7**]
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Possibly to floor pending evaluation this afternoon

2141-08-09 11:22:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with EtOH cirrhosis, presented with variceal bleed, complicated by
   aspiration PNA, hypoxic brain injury, and now siezure of unclear
   etiology:
   24 Hour Events:
   -agitation, response to lorazepam and seroquel
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-8**] 12:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-8**] 06:11 AM
   Piperacillin - [**2141-8-8**] 10:08 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-8-8**] 12:00 PM
   Lorazepam (Ativan) - [**2141-8-8**] 08:00 PM
   Other medications:
   pantopr, lactulose, rifaximin, fa, zosyn, keppra, dilantin, s/c hep,
   seroquel 12.5 [**Hospital1 **], lorazepam 2 mg at 8pm
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-8-9**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 93 (77 - 112) bpm
   BP: 140/80(96) {104/50(63) - 151/90(102)} mmHg
   RR: 22 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,724 mL
                                                                    900 mL
   PO:
             TF:
                                                                  1,261 mL
                                                                    661 mL
   IVF:
                                                                  1,043 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  4,695 mL
                                                                  2,190 mL
   Urine:
                                                                  3,895 mL
                                                                  2,190 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,971 mL
                                                                 -1,290 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, mild dist
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): hospital, [**Location (un) **], "[**2133**]", Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   144 K/uL
   116 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   23 mg/dL
   109 mEq/L
   142 mEq/L
   30.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2141-8-5**]  04:14 AM
                             [**2141-8-5**]  04:41 AM
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
                             [**2141-8-8**]  11:19 AM
                             [**2141-8-9**]  04:02 AM
   WBC
   16.4
   12.5
   14.5
   14.9
   14.9
   Hct
   29.4
   30.1
   31.3
   31.3
   30.5
   Plt
   108
   131
   145
   150
   144
   Cr
   0.3
   0.4
   0.4
   1.6
   1.7
   1.8
   TCO2
   31
   29
   27
   26
   Glucose
   109
   86
   107
   109
   93
   116
   Other labs: PT / PTT / INR:21.3/36.9/2.0, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Imaging: cxr: stable multiple air space opacities, stable
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with EtOH cirrhosis, presented with variceal bleed, complicated by
   aspiration PNA, hypoxic brain injury, and now siezure of unclear
   etiology. His mental status continues to improve and the seizures are
   controlled with antiepileptics. The etiology of the seizure could be
   EtOH withdrawal, sequelae of hypoxic brain injury, and possible
   infectious etiology. The persistent leukocytosis is concerning, though
   clinically pt has been stable.
   Pna: concern for recurrent aspiration
   -serial cxr; considering chest CT if change in clinical status
   -abx to finish today
   Seizures, delerium
   -cont seroquel
   -haldol prn
   -neurology has suggested an LP to ascertain duration of abx (i.e. d/c
   now vs complete 2 week course). Given that risk of LP likely outweighs
   the benefit (INR 2.0, not anticipated to remain still for procedure), I
   favor deferring the LP in  favor of continuing antibiotics.
   ARF: atn vs atn
   -awaiting renal recs
   -holding off on nephrotoxic meds/doses
   -will likely get renal ultrasound
   Sutures: place 1 wk ago
   -remove sutures
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2141-8-9**] 07:23 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   18 Gauge - [**2141-8-8**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2141-08-10 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45-year-old man with history of HCV hepatitis and
   cirrhosis who is transferred from [**Hospital 880**] Hospital for management of
   upper GI bleed, respiratory failure, and AMS.
   24 Hour Events:
   bed available for am transfer
   changed abx course to 14 days, and thus no need for LP
   sutures out
   will leave CVL in place for rehab
   Renal C/S yesterday:
    - Obtain renal U/S with Doppler to look for bilateral RAS
    - Hold Vanc, Captopril, consider holding Zosyn when possible
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-8**] 12:24 AM
   Piperacillin - [**2141-8-8**] 10:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-10**] 06:16 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-8-9**] 11:28 PM
   Pantoprazole (Protonix) - [**2141-8-10**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-8-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-10**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 105 (78 - 113) bpm
   BP: 152/78(98) {116/62(79) - 169/115(119)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,206 mL
                                                                    677 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    435 mL
   IVF:
                                                                    300 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  4,005 mL
                                                                  1,145 mL
   Urine:
                                                                  4,005 mL
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,799 mL
                                                                   -468 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   177 K/uL
   10.2 g/dL
   116 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   112 mEq/L
   146 mEq/L
   32.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
                             [**2141-8-8**]  11:19 AM
                             [**2141-8-9**]  04:02 AM
                             [**2141-8-9**]  10:38 PM
                             [**2141-8-10**]  03:06 AM
   WBC
   12.5
   14.5
   14.9
   14.9
   16.0
   Hct
   30.1
   31.3
   31.3
   30.5
   32.0
   Plt
   131
   145
   150
   144
   177
   Cr
   0.4
   0.4
   1.6
   1.7
   1.8
   1.6
   1.6
   TCO2
   29
   27
   26
   Glucose
   86
   107
   109
   93
   116
   114
   116
   Other labs: PT / PTT / INR:20.8/36.0/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR [**8-9**]:
   FINDINGS: In comparison with study of [**8-8**], there is continued
   extensive
   consolidation involving much of the right lung. Slight increase in
   opacification at the left base raises the possibility of pneumonia in
   this
   region as well.
   Right IJ catheter and nasogastric tube remain in position.
   EEG ([**8-9**]):  This telemetry captured no pushbutton activations.  The
   background activity was slow suggestive of encephalopathy.  On the
   right, there was almost continuous PLEDs which reached a maximum
   frequency of 1.5 Hz.  This activity, together with slower background on
   this side, suggests a structural abnormality on the right and the
   periods of faster frequency of PLEDs may represent active seizures.
   Microbiology: no new data
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # Respiratory failure/pneumonia:  Stable respiratory status but CXR
   remains concerning for aspiration.  O2 requirement stable but WBC
   trending up.  No positive cultures to date
    - Continue Vanc/Zosyn and renally dose for 14 days to cover for PNA (8
   days) and empirically for meningitis (additional 6 days).  Today is day
   currently day [**9-4**]
    - f/u blood cx, NGTD
    - Continue to monitor CXR.
    - consider chest CT to assess for abscess in RUL, especially if
   symptomatic.
   # ARF: Cre today is 1.6.  Renal was C/S yesterday and recommended renal
   U/S and holding Vanc/Zosyn if possible.  Likely etiology is hypotension
   in the setting of Captopril use.
    - F/U Renal recs
much appreciated
    - Renal U/S today
    - F/U Dilantin level
    - Renally dose meds
   # Seizures: Continous EEG shows focal right occipital seizures which
   explain righward gaze. Neuro continues to recommend LP.
   - cont ativan, phenytoin and keppra
   - Continue Abx for 2 week course to cover possible meningitis
   - F/U neuro reccs
   # Altered mental status:  Likely multifactorial with toxic metabolic
   encephalopathy and seizures. Improving.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - lactulose and rifaxamin
   - continue thiamine
   # GI bleed:  Currently hemodynamically stable s/p EGD, banding at OSH.
   - follow HCT
   - pantoprazole IV bid
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension.
   Captopril was discontinued yesterday.
   - continue ativan and keppra as above
   - folate and thiamine
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-8-9**] 08:29 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   18 Gauge - [**2141-8-8**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  To [**Hospital1 **] ICU

2141-08-10 11:18:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with etoh cirrhosis, presented with upper GIB, with hospital course
   c/b aspiration PNA, hypoxic brain injury, and seizures:
   24 Hour Events:
   -lengened abx to treated possible presumed meningitis
   -u/s done this am per renal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-8**] 12:24 AM
   Piperacillin - [**2141-8-8**] 10:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-10**] 06:16 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-8-9**] 11:28 PM
   Pantoprazole (Protonix) - [**2141-8-10**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-8-10**] 12:00 AM
   Other medications:
   pantopr, lactulose, rifaximin, FA, phenytoin, sqh, keppra, seroq 25
   [**Hospital1 **], zosyn, s/p vanco, haldol, lorazepam
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-8-10**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 90 (78 - 113) bpm
   BP: 152/81(95) {116/62(79) - 169/115(119)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,206 mL
                                                                  1,044 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    607 mL
   IVF:
                                                                    300 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  4,005 mL
                                                                  1,870 mL
   Urine:
                                                                  4,005 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,799 mL
                                                                   -826 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed, not oriented
   Labs / Radiology
   10.2 g/dL
   177 K/uL
   116 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   112 mEq/L
   146 mEq/L
   32.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2141-8-6**]  04:04 AM
                             [**2141-8-6**]  04:15 AM
                             [**2141-8-6**]  10:15 AM
                             [**2141-8-6**]  11:38 AM
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
                             [**2141-8-8**]  11:19 AM
                             [**2141-8-9**]  04:02 AM
                             [**2141-8-9**]  10:38 PM
                             [**2141-8-10**]  03:06 AM
   WBC
   12.5
   14.5
   14.9
   14.9
   16.0
   Hct
   30.1
   31.3
   31.3
   30.5
   32.0
   Plt
   131
   145
   150
   144
   177
   Cr
   0.4
   0.4
   1.6
   1.7
   1.8
   1.6
   1.6
   TCO2
   29
   27
   26
   Glucose
   86
   107
   109
   93
   116
   114
   116
   Other labs: PT / PTT / INR:20.8/36.0/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging: renal u/s: pending
   Microbiology: cdiff neg
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with etoh cirrhosis, presented with upper GIB, with hospital course
   c/b aspiration PNA, hypoxic brain injury, and seizures. Pt continues to
   have stable agitation of unclear etiology, likely related to EtOH
   withdrawal:
   leukocytosis
   -cont abx for 14 days; renal dose
   -fu cultures
   -may need chest CT if cxr does not improve
   ARF: possible ATN, stable and improving
   -fu renal u/s
   -avoid nephrotoxins
   Seizure: altered mental status
   -cont keppra and dilantin per neuro
   -follow dilantin level
   GIB
   -cont PPI
   -fyi our liver service about transfer
   Hemoptysis
   - started coughing and produced a piece of ?tissue/bloody, associated
   with increased HR without hypotension or desaturation
   - will send sample to path
   - underwent chest CT, prelim review diffuse R>L upper and middle lobe
   infiltrates
   - AFB negative on smear by BAL last week
   - NG negative for blood
   - antiGBM, ANCA, [**Doctor First Name **], RF pending
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-8-10**] 09:15 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   18 Gauge - [**2141-8-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed:
   Code status: Full code
   Disposition :ICU ; possible transfer to [**Hospital1 **] ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-08-11 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45-year-old man with history of HCV hepatitis and
   cirrhosis who is transferred from [**Hospital 880**] Hospital for management of
   upper GI bleed, respiratory failure, and AMS.
   24 Hour Events:
 ULTRASOUND - At [**2141-8-10**] 08:32 AM
   Renal US
   - Called [**Hospital **] hospital ([**Telephone/Fax (1) 9583**]) and spoke to [**Location (un) 9584**], one
   of the icu residents.  no prior hx of hemoptysis, no documentation of
   kawasaki's (listed in pmh), no [**Doctor First Name **]/ANCA/PPD records.
   - paged [**Doctor First Name **] gushner, nurse practitioner for the homeless (pager
   [**Telephone/Fax (1) 9585**]) -> doesn't know patient well, will call back at 2 p.m.
   after reviewing records.  Called back and stated he had a negative PPD
   in [**2138**].  No h/o unusual illnesses
   - Developed hemoptysis.  Liver called, no evidence of hematemesis.  NGT
   didn't show any blood in stomach.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2141-8-8**] 10:08 PM
   Vancomycin - [**2141-8-10**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2141-8-10**] 05:10 PM
   Pantoprazole (Protonix) - [**2141-8-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-11**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 92 (89 - 126) bpm
   BP: 123/80(90) {108/61(77) - 152/90(124)} mmHg
   RR: 17 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,218 mL
                                                                    973 mL
   PO:
             480 mL
   TF:
                                                                    698 mL
                                                                    354 mL
   IVF:
                                                                    840 mL
                                                                    139 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  3,140 mL
                                                                    940 mL
   Urine:
                                                                  3,140 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -922 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   188 K/uL
   7.7 g/dL
   131 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.4 mEq/L
   38 mg/dL
   115 mEq/L
   147 mEq/L
   25.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
                             [**2141-8-8**]  11:19 AM
                             [**2141-8-9**]  04:02 AM
                             [**2141-8-9**]  10:38 PM
                             [**2141-8-10**]  03:06 AM
                             [**2141-8-10**]  12:31 PM
                             [**2141-8-10**]  05:26 PM
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
   WBC
   14.5
   14.9
   14.9
   16.0
   19.8
   17.3
   Hct
   31.3
   31.3
   30.5
   32.0
   31.0
   26.0
   25.9
   25.1
   Plt
   145
   150
   144
   177
   241
   188
   Cr
   0.4
   1.6
   1.7
   1.8
   1.6
   1.6
   1.4
   1.4
   Glucose
   107
   109
   93
   116
   114
   116
   114
   131
   Other labs: PT / PTT / INR:20.9/33.0/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: CXR:
   IMPRESSION: Unchanged multifocal, partially confluent right more than
   left
   multifocal opacities, consistent with multifocal pneumonia, less likely
   hemorrhage or pulmonary edema.
   RENAL U/S: IMPRESSION:
   1. No hydronephrosis.
   2. No evidence of renal artery stenosis.
   3. Mild ascites.
   Imaging: CT CHEST:
   Preliminary Report !! WET READ !!
   Widespread ground glass opacity and more focal bilateral (R > L) upper
   lobe
   peribronchovascular consolidations may represent hemorrhage or
   infection.
   Right mainstem endobronchial material may be secretion, mucous,
   hemorrhage.
   Given mediastinal lymphadenopathy, repeat for resolution after
   treatment
   recommended to exclude neoplasm. [**Doctor Last Name 898**] 9 pm [**2141-8-10**].
   Microbiology: NO NEW DATA
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # Respiratory failure/Hemoptysis:  Initially had aspiration pneumonia
   and was stabilizing but developed hemoptysis yesterday.  Concerning for
   DAH, particularly given hematocrit drop.  Appears to have stabilized.
   Carries diagnosis of kawasaki's disease.
   - consider bronch today to further eval for DAH
   - high dose steroids if bronch positive
   - f/u final chest CT read
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], ANCA
   - Continue Vanc/Zosyn and renally dose for 14 days to cover for PNA (8
   days) and empirically for meningitis (additional 6 days).  Today is day
   currently day [**10-4**]
   - f/u blood cx, NGTD
   - Continue to monitor CXR.
   # GI bleed:  Initially had UGIB secondary to varices vs gastropathy and
   had stabilized.  Now has recurrent melena.  [**Month (only) 51**] be secondary to
   re-bleed vs ingestion of hemoptysis.
   - monitor hct q6h
   - cont pantoprazole IV bid; would not start octreotide at this time
   - re-consult liver for possible scope
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # ARF: Cre today is improving.  Renal was C/S and recommended renal U/S
   and holding Vanc/Zosyn if possible.  Likely etiology is hypotension in
   the setting of Captopril use.
    - F/U Renal recs
much appreciated
    - Renal U/S today
    - F/U Dilantin level
    - Renally dose meds
   # Seizures: Continous EEG shows focal right occipital seizures which
   explain righward gaze. Neuro continues to recommend LP but will defer
   and treat empirically for two weeks.
   - cont ativan, phenytoin and keppra
   - Continue Abx for 2 week course to cover possible meningitis
   - recheck phenytoin level
   - F/U neuro reccs
   # Altered mental status:  Likely multifactorial with toxic metabolic
   encephalopathy and seizures. Improving.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - lactulose and rifaxamin
   - continue thiamine
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension.
   Captopril was discontinued yesterday.
   - continue ativan and keppra as above
   - folate and thiamine
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   18 Gauge - [**2141-8-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-08-11 09:36:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with etoh cirrhosis, presented with variceal bleed complicated by
   aspiration pna, possible hypoxic brain injury and seizures, now
   improving slowly but with possible rebleeding from GI:
   24 Hour Events:
 ULTRASOUND - At [**2141-8-10**] 08:32 AM
   -Renal US -- no RAS, nl kidneys
   -hemoptysis vs hematemesis
   -coughed up a piece of tissue, sent to path
   -hct drop, melena
   -chest ct with multifocal infiltrates; cxr unchanged
   -mental status improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2141-8-8**] 10:08 PM
   Vancomycin - [**2141-8-10**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2141-8-10**] 05:10 PM
   Pantoprazole (Protonix) - [**2141-8-11**] 12:00 AM
   Other medications:
   pantopr, lactulose, rifaximin, fa, phenytoin, keppra, seroq, zosyn,
   vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: Cough
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-8-11**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 96 (89 - 126) bpm
   BP: 133/92(100) {108/61(77) - 152/92(124)} mmHg
   RR: 24 (13 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,218 mL
                                                                    987 mL
   PO:
             480 mL
   TF:
                                                                    698 mL
                                                                    354 mL
   IVF:
                                                                    840 mL
                                                                    153 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  3,140 mL
                                                                  1,320 mL
   Urine:
                                                                  3,140 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -922 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   [**Last Name (un) 1023**]), (improved from yesterday)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): [**Location (un) **], hospital, "[**2133**]", Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   188 K/uL
   131 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.4 mEq/L
   38 mg/dL
   115 mEq/L
   147 mEq/L
   25.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2141-8-7**]  02:59 AM
                             [**2141-8-8**]  05:55 AM
                             [**2141-8-8**]  11:19 AM
                             [**2141-8-9**]  04:02 AM
                             [**2141-8-9**]  10:38 PM
                             [**2141-8-10**]  03:06 AM
                             [**2141-8-10**]  12:31 PM
                             [**2141-8-10**]  05:26 PM
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
   WBC
   14.5
   14.9
   14.9
   16.0
   19.8
   17.3
   Hct
   31.3
   31.3
   30.5
   32.0
   31.0
   26.0
   25.9
   25.1
   Plt
   145
   150
   144
   177
   241
   188
   Cr
   0.4
   1.6
   1.7
   1.8
   1.6
   1.6
   1.4
   1.4
   Glucose
   107
   109
   93
   116
   114
   116
   114
   131
   Other labs: PT / PTT / INR:20.9/33.0/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: ct chest: multifocal opacities
   renal us: IMPRESSION:
   1. No hydronephrosis.
   2. No evidence of renal artery stenosis.
   3. Mild ascites.
   cxr this am: improved multifolcal opacities
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with etoh cirrhosis, presented with variceal bleed complicated by
   aspiration pna, possible hypoxic brain injury and seizures, now
   improving slowly but with possible rebleeding from GI. The question of
   hemoptysis seems less concerning given clear new GIB. Most likely
   explanation for the bleeding from above yesterday is GIB. There is an
   active discussion with GI about repeat EGD if bleeding continues. Will
   need to restart PPI/octreotide.
   ARF is resolving, even though etiology remains unclear. ATN remains the
   most likely explanation.
   Mental status is improving with the current regimen of benzodiazapines
   and antipsycotics. Continuing abx for possible meningitis, though very
   unlikely.
   ICU Care
   Nutrition: holding given GIB
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   18 Gauge - [**2141-8-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill
   Addendum: repeat Hct on AM rounds decreased at 23.9. GI scoped and
   found oozing from previously banded varix. They rebanded distal to this
   lesion. Patient tolerated procedure well with conscious sedation.
   Remains critically ill with high risk for rebleeding. Additional time
   20 min.

2141-08-12 08:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45-year-old man with history of HCV hepatitis and
   cirrhosis who is transferred from [**Hospital 880**] Hospital for management of
   upper GI bleed, respiratory failure, and AMS.
   24 Hour Events:
 ENDOSCOPY - At [**2141-8-11**] 12:30 PM
   - EGD -> had varices with ulcerations, some evidence of old blood, two
   bands placed.
   - restarted octreotide and started sucraflate per GI
   - no more hemoptysis
   - had continued low-volume melena overnight
   - hct 23.9 yesterday a.m. -> 1u prbc -> 26.9 -> 24.9 this a.m. -> 1u
   prbc.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-11**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-12**] 06:34 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2141-8-11**] 01:55 PM
   Midazolam (Versed) - [**2141-8-11**] 01:59 PM
   Carafate (Sucralfate) - [**2141-8-11**] 05:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2141-8-12**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 70 (70 - 96) bpm
   BP: 119/72(83) {110/61(56) - 149/97(110)} mmHg
   RR: 8 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
           Total In:
                                                                  3,528 mL
                                                                  1,235 mL
   PO:
                                                                  1,360 mL
                                                                    660 mL
   TF:
                                                                    354 mL
   IVF:
                                                                  1,479 mL
                                                                    200 mL
   Blood products:
                                                                    275 mL
                                                                    375 mL
   Total out:
                                                                  3,795 mL
                                                                  1,460 mL
   Urine:
                                                                  2,645 mL
                                                                  1,460 mL
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                   -267 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   185 K/uL
   7.9 g/dL
   76 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   35 mg/dL
   109 mEq/L
   143 mEq/L
   24.9 %
   14.4 K/uL
        [image002.jpg]
                             [**2141-8-9**]  10:38 PM
                             [**2141-8-10**]  03:06 AM
                             [**2141-8-10**]  12:31 PM
                             [**2141-8-10**]  05:26 PM
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
                             [**2141-8-11**]  08:01 AM
                             [**2141-8-11**]  02:00 PM
                             [**2141-8-11**]  11:15 PM
                             [**2141-8-12**]  04:09 AM
   WBC
   16.0
   19.8
   17.3
   14.4
   Hct
   32.0
   31.0
   26.0
   25.9
   25.1
   23.9
   26.9
   25.3
   24.9
   Plt
   177
   241
   188
   185
   Cr
   1.6
   1.6
   1.4
   1.4
   1.5
   Glucose
   114
   116
   114
   131
   76
   Other labs: PT / PTT / INR:18.6/32.2/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # GI bleed:  Initially had UGIB secondary to varices vs gastropathy and
   had stabilized.  Recurrent melena on [**8-11**] with repeat EGD demonstrating
   variceal ulceration and subsequent banding x 2.  Transfused 1u prbc
   overnight.
   - monitor hct q8h
   - cont pantoprazole IV bid
   - restarted octreotide
   - liver reccs
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # Respiratory failure/Hemoptysis:  Initially had aspiration pneumonia
   and was stabilizing but developed hemoptysis [**8-10**], now resolved.
   Carries diagnosis of kawasaki's disease.  PPD neg and AFB negative x 1
   here.  ANCA and [**Doctor First Name **] neg.  Anti-GBM pending.
   - consider bronch if recurs
   - f/u anti-GBM
   - Continue Vanc/Zosyn and renally dose for 14 days to cover for PNA (8
   days) and empirically for meningitis (additional 6 days).  Today is day
   currently day [**11-4**]
   - f/u blood cx, NGTD
   - speech and swallow c/s
   # ARF: Cre today is improving.  Renal was C/S and recommended renal U/S
   and holding Vanc/Zosyn if possible.  Likely etiology is hypotension and
   ATN in the setting of Captopril use.
   - renal has signed off
   - Renally dose meds
   - checking vanc trough tomorrow
   # Seizures: Continous EEG shows focal right occipital seizures which
   explain righward gaze. Neuro continues to recommend LP but will defer
   and treat empirically for two weeks.
   - cont ativan, phenytoin and keppra
   - Continue Abx for 2 week course to cover possible meningitis
   - F/U neuro reccs
   # Altered mental status:  Likely multifactorial with toxic metabolic
   encephalopathy and seizures. Improving.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - lactulose and rifaxamin
   - continue thiamine
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver reccs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension.
   Captopril was discontinued yesterday.
   - continue ativan and keppra as above
   - folate and thiamine
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-08-12 09:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2141-8-11**] 12:30 PM
   EGD yesterday showed ulceration of esophagus and GE junction and oozing
   seen from previously banded varix. Got new banding in area of oozing
   varix. Octreotide restarted.
   Overnight had melena, Hct dropped from 27 --> 24.9, transfused 1 unit
   prbc. Otherwise no events.
                   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-12**] 06:34 AM
   Vancomycin - [**2141-8-12**] 08:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2141-8-11**] 01:55 PM
   Midazolam (Versed) - [**2141-8-11**] 01:59 PM
   Carafate (Sucralfate) - [**2141-8-11**] 05:18 PM
   Other medications:
   reviewed - folic acid, rifax, lactulose q4h, dilantin tid, keppra,
   seraquel, Zosyn, Vanc, octreotide drip, carafate, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-12**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 69 (69 - 91) bpm
   BP: 142/85(99) {110/61(56) - 149/97(110)} mmHg
   RR: 13 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
           Total In:
                                                                  3,528 mL
                                                                  1,653 mL
   PO:
                                                                  1,360 mL
                                                                    780 mL
   TF:
                                                                    354 mL
   IVF:
                                                                  1,479 mL
                                                                    498 mL
   Blood products:
                                                                    275 mL
                                                                    375 mL
   Total out:
                                                                  3,795 mL
                                                                  1,580 mL
   Urine:
                                                                  2,645 mL
                                                                  1,580 mL
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                   -267 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: S1S2 normal, PPP
   Respiratory / Chest: (Breath Sounds: Crackles : at bases R>L, No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Neurologic: Attentive, Follows simple commands, Responds
   to: Not assessed, Oriented (to): person, hospital, [**Month (only) 1148**], Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   185 K/uL
   76 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   35 mg/dL
   109 mEq/L
   143 mEq/L
   24.9 %
   14.4 K/uL
        [image002.jpg]
                             [**2141-8-9**]  10:38 PM
                             [**2141-8-10**]  03:06 AM
                             [**2141-8-10**]  12:31 PM
                             [**2141-8-10**]  05:26 PM
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
                             [**2141-8-11**]  08:01 AM
                             [**2141-8-11**]  02:00 PM
                             [**2141-8-11**]  11:15 PM
                             [**2141-8-12**]  04:09 AM
   WBC
   16.0
   19.8
   17.3
   14.4
   Hct
   32.0
   31.0
   26.0
   25.9
   25.1
   23.9
   26.9
   25.3
   24.9
   Plt
   177
   241
   188
   185
   Cr
   1.6
   1.6
   1.4
   1.4
   1.5
   Glucose
   114
   116
   114
   131
   76
   Other labs: PT / PTT / INR:18.6/32.2/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR reviewed - smaller lung volumes, infiltrates on right, not
   new
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 HYPERTENSION, BENIGN
ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with etoh cirrhosis, presented with variceal bleed complicated by
   aspiration pna, possible hypoxic brain injury and seizures, now
   improving slowly but with possible rebleeding from GI. The question of
   hemoptysis seems less concerning given clear new GIB. Most likely
   explanation for the bleeding from above yesterday is GIB. Continue
   PPI/octreotide. No beta blockade for at least one week post banding.
   Acute blood loss anemia: Hct goal >21 unless actively bleeding, Hct q8h
   ARF with stable creatinine, overall improved since peak of 1.8, good
   u/o.  Etiology remains unclear with ATN most likely explanation.
   Mental status is improving with the current regimen of benzodiazapines,
   lactulose, antipsycotics. Continuing abx for possible meningitis day
   [**11-4**]., though very unlikely.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-08-13 08:01:00 Physician Resident Progress Note
Chief Complaint: GI Bleed, respiratory failure
   24 Hour Events:
   - painless lump in scrotum (?chamcre); sent rpr (consider lgv titer)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-12**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-13**] 06:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-8-12**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-13**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 76 (59 - 80) bpm
   BP: 149/79(93) {109/63(74) - 173/109(117)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,053 mL
                                                                    376 mL
   PO:
                                                                  2,340 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,338 mL
                                                                    326 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,380 mL
                                                                  1,620 mL
   Urine:
                                                                  4,280 mL
                                                                  1,620 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -327 mL
                                                                 -1,244 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   189 K/uL
   8.7 g/dL
   72 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.2 mEq/L
   22 mg/dL
   105 mEq/L
   138 mEq/L
   26.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2141-8-10**]  12:31 PM
                             [**2141-8-10**]  05:26 PM
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
                             [**2141-8-11**]  08:01 AM
                             [**2141-8-11**]  02:00 PM
                             [**2141-8-11**]  11:15 PM
                             [**2141-8-12**]  04:09 AM
                             [**2141-8-12**]  11:25 AM
                             [**2141-8-13**]  02:43 AM
   WBC
   19.8
   17.3
   14.4
   12.5
   Hct
   31.0
   26.0
   25.9
   25.1
   23.9
   26.9
   25.3
   24.9
   25.3
   26.1
   Plt
   241
   188
   185
   189
   Cr
   1.4
   1.4
   1.5
   1.2
   Glucose
   114
   131
   76
   72
   Other labs: PT / PTT / INR:18.4/32.4/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # GI bleed:  Initially had UGIB secondary to varices vs gastropathy and
   had stabilized.  Recurrent melena on [**8-11**] with repeat EGD demonstrating
   variceal ulceration and subsequent banding x 2.  Hct has been stable
   for the past 24 hours.
   - monitor hct q12h (12 am, 8 PM)
   - Cont pantoprazole IV bid and Octreotide
   - Advance diet to soft solids
   - F/U liver recs-much appreciated
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # Respiratory failure/Hemoptysis:  Initially had aspiration pneumonia
   and was stabilizing but  then developed questionable hemoptysis [**8-10**],
   now resolved.  Carries diagnosis of kawasaki's disease.  PPD neg and
   AFB negative x 1 here.  ANCA and [**Doctor First Name **] neg.  Anti-GBM pending.
   - Consider bronch if recurs
   - f/u anti-GBM
   - Continue Vanc/Zosyn and renally dose for 14 days to cover for PNA (8
   days) and empirically for meningitis (additional 6 days).  Today is day
   currently day [**12-4**]
   - f/u blood cx, NGTD
   - speech and swallow c/s
   # ARF: Cr continues to improve to 1.2 today.  Renal was C/S and
   recommended renal U/S and holding Vanc/Zosyn if possible.  Likely
   etiology is hypotension and ATN in the setting of Captopril use.
   - renal has signed off
   - Renally dose meds
   - F/U vanc trough today
   # Seizures: Continous EEG shows focal right occipital seizures which
   explain righward gaze. Treating with 2-week course for possible
   meningitis
   - cont ativan, phenytoin and keppra
   - Continue Abx for 2 week course to cover possible meningitis
   - F/U neuro reccs
   # Altered mental status:  Likely multifactorial with toxic metabolic
   encephalopathy and seizures. Improving.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - lactulose and rifaxamin
   - continue thiamine
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver recs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension.
   - continue ativan and keppra as above
   - folate and thiamine
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition: Regular diet with soft solids
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-08-13 11:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Painless lump in scrotum noticed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-12**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-13**] 06:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-8-12**]
   Other medications:
   Reviewed - folate, lacutlose, dilantin, keppra, rifaximin, seroquel,
   zosyn, vanc (on hold for level 22), carafate, antoprozole, thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2141-8-13**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 73 (59 - 80) bpm
   BP: 140/86(99) {109/63(74) - 173/109(117)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,053 mL
                                                                    821 mL
   PO:
                                                                  2,340 mL
                                                                    410 mL
   TF:
   IVF:
                                                                  1,338 mL
                                                                    411 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,380 mL
                                                                  2,340 mL
   Urine:
                                                                  4,280 mL
                                                                  1,960 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    380 mL
   Drains:
   Balance:
                                                                   -327 mL
                                                                 -1,519 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Scrotum: 2 nodules, nontender, no ulcerations
   Musculoskeletal: No(t) Muscle wasting, Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   189 K/uL
   72 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.2 mEq/L
   22 mg/dL
   105 mEq/L
   138 mEq/L
   26.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2141-8-10**]  12:31 PM
                             [**2141-8-10**]  05:26 PM
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
                             [**2141-8-11**]  08:01 AM
                             [**2141-8-11**]  02:00 PM
                             [**2141-8-11**]  11:15 PM
                             [**2141-8-12**]  04:09 AM
                             [**2141-8-12**]  11:25 AM
                             [**2141-8-13**]  02:43 AM
   WBC
   19.8
   17.3
   14.4
   12.5
   Hct
   31.0
   26.0
   25.9
   25.1
   23.9
   26.9
   25.3
   24.9
   25.3
   26.1
   Plt
   241
   188
   185
   189
   Cr
   1.4
   1.4
   1.5
   1.2
   Glucose
   114
   131
   76
   72
   Other labs: PT / PTT / INR:18.4/32.4/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with etoh cirrhosis, presented with variceal bleed complicated by
   aspiration pna, possible hypoxic brain injury and seizures, now
   improving slowly but with possible rebleeding from GI. The question of
   hemoptysis seems less concerning given clear new GIB. Most likely
   explanation for the bleeding from above yesterday is GIB. Continue
   PPI/octreotide. No beta blockade for at least one week post banding.
   Acute blood loss anemia: Hct goal >21 unless actively bleeding. Hct
   relatively stable. Continue q12h Hct checks. C/w octreotide x 72 hrs,
   c/w PPI
   ARF with improving creatinine, overall improved since peak of 1.8, with
   excellent  u/o.  Etiology remains unclear with ATN most likely
   explanation.
   Mental status is improving with the current regimen of benzodiazapines,
   lactulose, antipsycotics. Continuing abx for possible meningitis day
   [**12-4**]., though very unlikely.
   HTN
 start low dose HCTZ for now
   ICU Care
   Nutrition: soft solids
   Lines:  Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU but stable to go to [**Hospital1 **] in AM
   Total time spent: 30 minutes
   ------ Protected Section ------
   Correction - total of 35 minutes spent in direct patient care.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2141-8-13**] 11:23 ------

2141-08-14 09:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45-year-old man with history of HCV hepatitis and
   cirrhosis who is transferred from [**Hospital 880**] Hospital for management of
   upper GI bleed, respiratory failure, and AMS.
   24 Hour Events:
   [**2141-8-11**]
   - EGD -> had varices with ulcerations, some evidence of old blood, two
   bands placed.
   - restarted octreotide and started sucraflate per GI
   - no more hemoptysis
   - had continued low-volume melena overnight
   - hct 23.9 yesterday a.m. -> 1u prbc -> 26.9 -> 24.9 this a.m. -> 1u
   prbc.
   [**8-12**]
   - painles lump in scrotum (?chamcre); sent rpr (consider lgv titer)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-8-13**] 08:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-14**] 06:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-8-13**] 08:10 PM
   Lorazepam (Ativan) - [**2141-8-13**] 08:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-14**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 67 (64 - 81) bpm
   BP: 139/89(101) {101/59(69) - 158/105(110)} mmHg
   RR: 10 (7 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,091 mL
                                                                  1,067 mL
   PO:
                                                                    950 mL
                                                                    750 mL
   TF:
   IVF:
                                                                  1,141 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  2,205 mL
   Urine:
                                                                  3,760 mL
                                                                  1,605 mL
   NG:
   Stool:
                                                                    380 mL
   Drains:
   Balance:
                                                                 -2,049 mL
                                                                 -1,138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   9.0 g/dL
   106 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.4 mEq/L
   17 mg/dL
   102 mEq/L
   135 mEq/L
   27.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
                             [**2141-8-11**]  08:01 AM
                             [**2141-8-11**]  02:00 PM
                             [**2141-8-11**]  11:15 PM
                             [**2141-8-12**]  04:09 AM
                             [**2141-8-12**]  11:25 AM
                             [**2141-8-13**]  02:43 AM
                             [**2141-8-13**]  06:07 PM
                             [**2141-8-14**]  03:39 AM
   WBC
   17.3
   14.4
   12.5
   13.8
   Hct
   25.9
   25.1
   23.9
   26.9
   25.3
   24.9
   25.3
   26.1
   28.8
   27.6
   Plt
   188
   185
   189
   221
   Cr
   1.4
   1.5
   1.2
   1.3
   Glucose
   131
   76
   72
   106
   Other labs: PT / PTT / INR:18.2/31.6/1.6, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   45-year-old man with history of HCV hepatitis and cirrhosis who is
   transferred from [**Hospital 880**] Hospital for management of upper GI bleed,
   respiratory failure, and AMS.
   # GI bleed:  Initially had UGIB secondary to varices vs gastropathy and
   had stabilized.  Recurrent melena on [**8-11**] with repeat EGD demonstrating
   variceal ulceration and subsequent banding x 2.  Hct has been stable
   for the past 24 hours.
   - monitor hct q12h (12 am, 8 PM)
   - Cont pantoprazole PO bid and Octreotide
   - Advance diet to soft solids
   - F/U liver recs-much appreciated
   - prophylactic antibiotics (zosyn for pna and variceal bleeding)
   # Respiratory failure/Hemoptysis:  Initially had aspiration pneumonia
   and was stabilizing but  then developed questionable hemoptysis [**8-10**],
   now resolved.  Carries diagnosis of kawasaki's disease.  PPD neg and
   AFB negative x 1 here.  ANCA and [**Doctor First Name **] neg.  Anti-GBM pending.
   - Consider bronch if recurs
   - f/u anti-GBM
   - Continue Vanc/Zosyn and renally dose for 14 days to cover for PNA (8
   days) and empirically for meningitis (additional 6 days).  Today is day
   currently day [**12-4**]
   - f/u blood cx, NGTD
   - speech and swallow c/s
   # ARF: Cr continues to improve to 1.2 today.  Renal was C/S and
   recommended renal U/S and holding Vanc/Zosyn if possible.  Likely
   etiology is hypotension and ATN in the setting of Captopril use.
   - renal has signed off
   - Renally dose meds
   - F/U vanc trough today
   # Seizures: Continous EEG shows focal right occipital seizures which
   explain righward gaze. Treating with 2-week course for possible
   meningitis
   - cont ativan, phenytoin and keppra
   - Continue Abx for 2 week course to cover possible meningitis
   - F/U neuro reccs
   # Altered mental status:  Likely multifactorial with toxic metabolic
   encephalopathy and seizures. Improving.
   - will hold sedatives as much as possible
   - seizure and alcohol w/d management as above
   - lactulose and rifaxamin
   - continue thiamine
   # Cirrhosis:  Thought to be secondary to alcohol vs hepatitis C.
   - continue lactulose and rifaxamin
   - monitor coags, bilirubin
   - liver recs
   # Alcoholism:  Likely withdrawing given significant alcohol history and
   focal seizures on EEG.  Also had tachycardia and hypertension.
   - continue ativan and keppra as above
   - folate and thiamine
   # Hepatitis C:  Confirmed with positive IgG for HCV
   - management of cirrhosis as above
   # Communication: [**Name (NI) 787**] (mother) [**Telephone/Fax (1) 9423**]
   # Disposition: pending clinical improvement)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-08-14 11:37:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47M with ESLD, presented with variceal bleed, s/p banding multiple
   times, last time 4 days ago, now with stable hct and improving mental
   status:
   24 Hour Events:
   -no events
   -no transfusions
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-8-14**] 06:35 AM
   Vancomycin - [**2141-8-14**] 09:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-8-13**] 08:10 PM
   Lorazepam (Ativan) - [**2141-8-13**] 08:58 PM
   Other medications:
   fa, rifaximin, lactulose, dilantin tid, keppra, seroquel, zosyn,
   carafate, pantopr, thiamin, hctz, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-8-14**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 69 (64 - 81) bpm
   BP: 131/83(94) {101/59(69) - 158/105(110)} mmHg
   RR: 16 (7 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 85.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,091 mL
                                                                  1,596 mL
   PO:
                                                                    950 mL
                                                                    990 mL
   TF:
   IVF:
                                                                  1,141 mL
                                                                    606 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  2,555 mL
   Urine:
                                                                  3,760 mL
                                                                  1,955 mL
   NG:
   Stool:
                                                                    380 mL
   Drains:
   Balance:
                                                                 -2,049 mL
                                                                   -959 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Overweight / Obese, Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   221 K/uL
   106 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.4 mEq/L
   17 mg/dL
   102 mEq/L
   135 mEq/L
   27.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2141-8-10**]  11:23 PM
                             [**2141-8-11**]  03:22 AM
                             [**2141-8-11**]  08:01 AM
                             [**2141-8-11**]  02:00 PM
                             [**2141-8-11**]  11:15 PM
                             [**2141-8-12**]  04:09 AM
                             [**2141-8-12**]  11:25 AM
                             [**2141-8-13**]  02:43 AM
                             [**2141-8-13**]  06:07 PM
                             [**2141-8-14**]  03:39 AM
   WBC
   17.3
   14.4
   12.5
   13.8
   Hct
   25.9
   25.1
   23.9
   26.9
   25.3
   24.9
   25.3
   26.1
   28.8
   27.6
   Plt
   188
   185
   189
   221
   Cr
   1.4
   1.5
   1.2
   1.3
   Glucose
   131
   76
   72
   106
   Other labs: PT / PTT / INR:18.2/31.6/1.6, CK / CKMB / Troponin-T:25//,
   ALT / AST:26/67, Alk Phos / T Bili:81/6.2, Amylase / Lipase:/20,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:0.0 %, Mono:9.0 %, Eos:4.0
   %, Fibrinogen:328 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:248 IU/L, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:4.0 mg/dL
   Imaging: cxr: improving airspace opacities
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   47M with ESLD, presented with variceal bleed, s/p banding multiple
   times, last time 4 days ago, now with stable hct and improving mental
   status.
   All of the acute issues have been resolving. Hct is stable, cr is
   improving, mental status improving, and opacities on the cxr have been
   resolving.  Pt is stable for transfer.
   Defer chronic issues, most importantly dispo, to [**Hospital **] hospital.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2141-8-4**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 35 minutes
   Patient is not critically ill